US06921763B2
rac-N2-{4-[4-Amino-1-(1-methyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine was prepared from rac-3-iodo-1-(1-methyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.200 g, 0.581 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine (0.265 g, 0.726 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as a white powder (0.062 g, 23%). 1H NMR (DMSO-d6, 400 MHz) 2.39 (s, 3H), 2.32-2.40 (m, 3H), 2.40 (s, 3H), 2.75-2.80 (m, 2H), 3.08 (t, 1H), 3.26 (s, 3H), 5.40 (m, 1H), 6.80 (s, 1H), 7.11 (s, 1H), 7.66 (d, 2H), 7.93 (d, 2H), 8.24 (s, 1H), 10.85 (s, 1H); RP-HPLC Rt 10.905 min, 96% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 455 (MH+).

reactant | rac-3-iodo-1-(1-methyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.581 mmol, 0.200 g | IC1=NN(C2=NC=NC(=C21)N)C2CN(CC2)C | C10H13IN6
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.726 mmol, 0.265 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C)C | C21H25BN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | rac-N2-{4-[4-Amino-1-(1-methyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(CC1)C | C25H26N8O
